US09376422B2
Step 1: Synthesis of methyl 2-bromo-5-chloro-3-nitrobenzoate
A solution of methyl 2-bromo-5-chlorobenzoate (10 g, 40 mmol) in concentrated H2SO4 (48 ml, 910 mmol) was cooled to −5° C. in an acetone/ice bath in air. A mixture of concentrated nitric acid (3.35 ml, 52 mmol) and concentrated H2SO4 (3.4 ml, 64 mmol) was added dropwise to the reaction mixture at 0° C. over 30 minutes. The yellow reaction mixture was stirred at 0° C. for 1.5 hours before being poured onto ice. EtOAc (150 ml) was added and the phases were separated. The organic phase was washed with deionized water (3×50 ml) followed by brine (50 ml). The organic phase was dried over MgSO4, filtered and concentrated under reduced pressure to give 12.0 g (60%) of the title compound material as a pale yellow oil which solidified upon standing. This material contained 40% of the 6-nitro isomer. This material was used without further purification. LC-MS 91%, m/z=no ionisation, 1H NMR (500 MHz, Chloroform-d) δ 7.86 (1H, d, J=2.52 Hz), 7.77 (1H, d, J=2.52 Hz), 3.99 (3H, s).

reactant | methyl 2-bromo-5-chlorobenzoate | 40 mmol, 10 g | BrC1=C(C(=O)OC)C=C(C=C1)Cl | C8H6BrClO2
reactant | H2SO4 | 910 mmol, 48 ml | OS(=O)(=O)O | H2O4S
reactant | nitric acid | 52 mmol, 3.35 ml | [N+](=O)(O)[O-] | HNO3
reactant | H2SO4 | 64 mmol, 3.4 ml | OS(=O)(=O)O | H2O4S
solvent | EtOAc | 150 ml | CCOC(=O)C | C4H8O2
product | methyl 2-bromo-5-chloro-3-nitrobenzoate | 12.0 g, 60% | BrC1=C(C(=O)OC)C=C(C=C1[N+](=O)[O-])Cl | C8H5BrClNO4
